US05474923
Nocardia autotrophica N-102 in the same BG medium (100 ml/500 ml-Erlenmeyer flask) as used in Example 1 was cultured at 28° C. under the aerobic conditions for 48 hours. To the culture solution were added 10 ml of a 5% PMCD (made by Mercian Co.) solution (0.01 M phosphate buffer, pH 7.0) and a solution of 2% vitamin D3 in 1 ml of ethanol (in the amount of 7 mol of PMCD relative to 1 mol of vitamin D3), and cultivation was continued for a further 96 hours. After completion of the cultivation, 200 ml of methylene chloride was added to the flask, and the mixture was extracted. The methylene chloride layer was concentrated to dryness under reduced pressure, and immediately after the residue was dissolved in 3 ml of 2-propanol:n-hexane (1:9) and allowed to stand at -20° C. for 2 hours. The resulting insolubles were removed by centrifugation. The supernatant was concentrated under reduced pressure and applied to HPLC on Zorbax SIL column (4.6 mm×25 cm) with n-hexane-2-propanol (86:14) as a mobile phase at a flow rate of 1.5 ml/min. The peak fraction at 3.8 minutes was collected, and concentrated to dryness at 40° C. or below under reduced pressure with a nitrogen gas replacement to give 25-hydroxyvitamin D3, which was strictly identical to the authentic sample of the commercially available 25-hydroxyvitamin D3 (made by Duphar Co., Holland) in terms of the retention time of HPLC, the UV absorption spectrum and mass spectrum cleavage pattern.

reactant | N-102 | CCN(CC)C1=CC2=C(C=C1)C3(C4=CC=CC=C4C(=O)O3)C5=CC(=C(C=C5O2)C)NC6=CC=CC=C6 | C31H28N2O3
reactant | phosphate | 0.01 M | P(=O)([O-])([O-])[O-]
reactant | vitamin D3 | C[C@H](CCCC(C)C)[C@H]1CC[C@@H]\2[C@@]1(CCC/C2=C\C=C/3\C[C@H](CCC3=C)O)C | C27H44O
reactant | vitamin D3 | 1 mol | C[C@H](CCCC(C)C)[C@H]1CC[C@@H]\2[C@@]1(CCC/C2=C\C=C/3\C[C@H](CCC3=C)O)C | C27H44O
reactant | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | 25-hydroxyvitamin D3 | C[C@H](CCCC(C)(C)O)[C@H]1CC[C@@H]\2[C@@]1(CCC/C2=C\C=C/3\C[C@H](CCC3=C)O)C | C27H44O2
